US04304784
In 250 ml of water are dissolved 25 g of thiosalicylic acid and 60 g of sodium carbonate. Then, under ice-cooling, 38 g of α-bromo-γ-butyrolactone is added dropwise. The mixture is stirred at room temperature for 3 hours. The reaction mixture is made acidic with dilute hydrochloric acid and the resultant precipitate is recovered by filtration, rinsed with water and recrystallized from ethanol. By the above procedure there is obtained 32.5 g of α-[(2-carboxyphenyl)thio]-γ-butyrolactone as colorless prisms melting at 180°-182° C.

reactant | thiosalicylic acid | 25 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | sodium carbonate | 60 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | α-bromo-γ-butyrolactone | 38 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 ml | O | H2O
product | α-[(2-carboxyphenyl)thio]-γ-butyrolactone | 32.5 g | C(=O)(O)C1=C(C=CC=C1)SC1C(=O)OCC1 | C11H10O4S
